US07705034B2
Using general procedure B, 2-bromo-6-methoxy-naphthalene was reacted with benzaldehyde to give (6-methoxy-naphthalen-2-yl)-phenyl-methanol as a colorless solid.

reactant | 2-bromo-6-methoxy-naphthalene | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | (6-methoxy-naphthalen-2-yl)-phenyl-methanol | COC=1C=C2C=CC(=CC2=CC1)C(O)C1=CC=CC=C1 | C18H16O2
